US07064102B2
chloroacetic anhydride (213.7 g, 1.12 mol) is added in portions to a solution of 2-(3,3-dimethylcyclohexyl)-2-propanol (127.7 g, 0.75 mol) in pyridine (175 ml), which has been cooled to 0° C., in such a way that the temperature does not rise above 10° C. When the addition is complete, the reaction mixture is allowed to allowed to warm to room temperature and stirred for a further 3 hours. The reaction mixture is then cooled to 0° C. again and water (500 ml) is added. The phases are separated, and the aqueous phase is extracted a further three times with ether (500 ml). The combined organic phases are also washed twice with 1 M HCl, then dried, filtered off and freed from solvent in a rotary evaporator. Subsequent distillation (b.p. 103° C., 0.5 mbar) yields 152 g (82%) 1-(3,3-dimethylcyclohexyl)-1-methylethyl chloroacetate as a colorless liquid.

reactant | chloroacetic anhydride | 1.12 mol, 213.7 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | 2-(3,3-dimethylcyclohexyl)-2-propanol | 0.75 mol, 127.7 g | CC1(CC(CCC1)C(C)(C)O)C | C11H22O
reactant | water | 500 ml | O | H2O
solvent | pyridine | 175 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3,3-dimethylcyclohexyl)-1-methylethyl chloroacetate | 152 g, 82% | ClCC(=O)OC(C)(C)C1CC(CCC1)(C)C | C13H23ClO2
